US07157488B2
N-(2-(5-Amino-1H-indol-3-yl)ethyl-3-phenoxybenzylamine
Combine N-(2-(5-nitro-1H-indol-3-yl)ethyl)-3-phenoxybenzylamine hydrochloride (250 mg, 0.64 mmol) and NiCl2-6H2O (460 mg, 1.9 mmol) in 30 mL MeOH and treat with NaBH4 (73 mg, 1.9 mmol). After 1 hour concentrate to dryness, partition between EtOAc and concentrated NH4OH. Extract the aqueous layer with EtOAc, combine the organic layer, dry over MgSO4 and concentrate to dryness. Chromatograph on silica gel eluting with a stepwise gradient 20/75/5 THF/hexanes/Et3N then 40/55/5 THF/hexanes/Et3N gives the title compound as an oil. Additional chromatograph on silica gel eluting with 1% MeOH in CHCl3 mixed with conc. NH4OH gives the title compound as an oil. Treatment with in 10 mL EtOH with 0.25 mL 5N HCl and 40 mL toluene then concentrating give the title compound as the hydrochloride: Analysis for C23H23N3O 2.6 HCl 0.6 EtOH: calcd: C, 59.66; H, 5.83; N, 9.07; found: C, 59.30; H, 5.48; N, 8.82; ISMS 358 (M+1).

reactant | N-(2-(5-nitro-1H-indol-3-yl)ethyl)-3-phenoxybenzylamine hydrochloride | 0.64 mmol, 250 mg | Cl.[N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OC1=CC=CC=C1
reactant | NaBH4 | 1.9 mmol, 73 mg | [BH4-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(5-Amino-1H-indol-3-yl)ethyl-3-phenoxybenzylamine | NC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OC1=CC=CC=C1 | C23H23N3O
